US07259175B2
4-Isopropyl-2-(4-trifluoromethyl-phenyl)-thiazole-5-carboxylic acid
To a solution of 4-isopropyl-2-(4-trifluoromethyl-phenyl)-thiazole-5-carboxylic acid ethyl ester (0.62 g, 1.80 mmol) in THF (10 mL) is added 5M NaOH (3.5 mL, 17.50 mmol). The mixture is heated at 70° C. for 12 h. Upon cooling to RT, the mixture is acidified with 5M HCl and extracted with EtOAc. The organics are washed with water and brine, and dried with MgSO4. After concentration, the title compound is obtained (0.46 g, 81%). The material is used without further purification.

reactant | 4-isopropyl-2-(4-trifluoromethyl-phenyl)-thiazole-5-carboxylic acid ethyl ester | 1.80 mmol, 0.62 g | C(C)OC(=O)C1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C(C)C | C16H16F3NO2S
reactant | NaOH | 17.50 mmol, 5M, 3.5 mL | [OH-].[Na+]
reactant | HCl | 5M | Cl | ClH
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-Isopropyl-2-(4-trifluoromethyl-phenyl)-thiazole-5-carboxylic acid | C(C)(C)C=1N=C(SC1C(=O)O)C1=CC=C(C=C1)C(F)(F)F | C14H12F3NO2S
